US04954501
(a) 4-(4-chloro-3-nitro-benzoyl)-tetrahydrofuran-2-one
3.37 g (15 mmol) of 4-(4-chlorobenzoyl)-tetrahydrofuran-2-one are added portion wise to 30 ml of nitric acid (100%) at -15° C. The temperature should not exceed -5° C. Stirring is continued for 30 minutes after all the compound has been added and the mixture is then poured out on 300 ml of ice water and the solid which has precipitated is separated by suction filtration and washed with water.

reactant | 4-(4-chlorobenzoyl)-tetrahydrofuran-2-one | 15 mmol, 3.37 g | ClC1=CC=C(C(=O)C2CC(OC2)=O)C=C1 | C11H9ClO3
reactant | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
product | 4-(4-chloro-3-nitro-benzoyl)-tetrahydrofuran-2-one | ClC1=C(C=C(C(=O)C2CC(OC2)=O)C=C1)[N+](=O)[O-] | C11H8ClNO5
